US07067540B2
2-[3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]-N,N′-dimethylterephthalamide
To a room temperature solution of 2-[3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]-4-[(methylamino)carbonyl]benzoic acid (500 mg, 0.986 mmol) in DMF (5.0 mL) was added 1-(3-dimethylaminopropyl)-ethylcarbodiimide hydrochloride (EDC-HCl, 350.0 mg, 1.83 mmol) and 1-hydroxy-benzotriazole (HOBT, 100.0 mg, 0.74 mmol) sequentially. To this resulting suspension was then added a solution of methylamine (2.0 M THF, 1.0 mL, 2.0 mmol). The reaction was stirred for 16.0 hours, at which time the reaction was diluted with ethyl acetate (600 mL). The mixture was washed with (3×200 mL) of water and the organic extract was separated, Na2SO4 dried, and concentrated in vacuo to a volume of approximately 60 mL. At this time a solid precipitate formed and was collected to furnish (289 mg, 56%). 1H NMR (300 MHz, d4-MeOH) δ 8.06 (br d, J=8.0 Hz, 1H), 7.81 (d, J=8.1 Hz, 1H), 7.73 (s, 1H), 7.70 (app q, J=7.4 Hz, 1H), 7.09 (app t, J=8.0 Hz, 2H), 6.65 (s, 1H), 5.39 (s, 2H), 2.96 (s, 3H), 2.79 (s, 3H), 2.13 (s, 3H); LC/MS C-18 column, tr=2.13 minutes (5 to 95% acetonitrile/water over 5 minutes at 1 ml/min with detection 254 nm, at 50° C.). ES-MS m/z 520 (M+H). ES-HRMS m/z 520.0700 (M+H calcd for C23H21BrF2N3O4 requires 520.0678).

reactant | 2-[3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]-4-[(methylamino)carbonyl]benzoic acid | 0.986 mmol, 500 mg | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)C1=C(C(=O)O)C=CC(=C1)C(=O)NC)=O | C22H17BrF2N2O5
reactant | 1-(3-dimethylaminopropyl)-ethylcarbodiimide hydrochloride | 1.83 mmol, 350.0 mg | Cl.CN(CCCC(C)N=C=N)C
reactant | 1-hydroxy-benzotriazole | 0.74 mmol, 100.0 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | methylamine | 2.0 mmol, 2.0 M, 1.0 mL | CN | CH5N
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 600 mL | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile water | C(C)#N.O
product | 2-[3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]-N,N′-dimethylterephthalamide | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)C1=C(C(=O)NC)C=CC(=C1)C(=O)NC)=O | C23H20BrF2N3O4
